US04529599
Synthesis of 3-phenoxybenzyl tricyclo[3.3.1.13,7 ]decane-1-carboxylate (compound No. 4)
1 g (5.03 mmol) of tricyclo[3.3.1.13,7 ]decane-1-carbonyl chloride, 1.01 g (5.04 mmol) of 3-phenoxybenzyl alcohol and 0.08 g (10.07 mmol) of anhydrous pyridine were dissolved in 30 ml of anhydrous benzene. The mixture was stirred at room temperature for 66 hours. Then the reaction was terminated. The resulting pyridine hydrochloride was removed by filtration and the filtrate was thoroughly washed with 1N hydrochloric acid, 5% sodium carbonate and then saturated saline solution, and dried over sodium sulfate. The solvent was removed to obtain 1.8 g of an oily material. Purification by column chromatography on silica gel employing a developer consisting of n-hexane and benzene (1:1) gave 1.69 g (yield 93%) of a colorless oily material.

reactant | tricyclo[3.3.1.13,7 ]decane-1-carbonyl chloride | 5.03 mmol, 1 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | 3-phenoxybenzyl alcohol | 5.04 mmol, 1.01 g | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
reactant | pyridine | 10.07 mmol, 0.08 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 3-phenoxybenzyl tricyclo[3.3.1.13,7 ]decane-1-carboxylate | 1.8 g | C12(CC3CC(CC(C1)C3)C2)C(=O)OCC2=CC(=CC=C2)OC2=CC=CC=C2 | C24H26O3
